US06596751B2
3-[4-[6-(4-Adamantan-1-ylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]phenyl]-2-(4-fluorobenzyloxy)propionic acid (exemplification compound number 1-1)
A mixture of methyl 3-[4-[6-(4-adamantan-1-ylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]phenyl]-2-(4-fluorobenzyloxy)propionate (0.25 g), aqueous 2N sodium hydroxide solution (2 ml) and methanol (5 ml) was stirred at room temperature for 2 hours. To the reaction mixture was added tetrahydrofuran (5 ml) and the mixture was stirred for 4 hours. The reaction mixture was poured into water and neutralized with hydrochloric acid and sodium hydrogencarbonate and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The ethyl acetate was evaporated under reduced pressure. The residue crystallized in ethyl acetate and the crystals were isolated by filtration to afford the title compound (0.23 g, mp 148-149° C.).

reactant | methyl 3-[4-[6-(4-adamantan-1-ylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]phenyl]-2-(4-fluorobenzyloxy)propionate | 0.25 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OC=3C=CC1=C(N(C(=N1)COC1=CC=C(C=C1)CC(C(=O)OC)OCC1=CC=C(C=C1)F)C)C3)C=C2 | C42H43FN2O5
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 3-[4-[6-(4-Adamantan-1-ylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]phenyl]-2-(4-fluorobenzyloxy)propionic acid | 0.23 g | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OC=3C=CC1=C(N(C(=N1)COC1=CC=C(C=C1)CC(C(=O)O)OCC1=CC=C(C=C1)F)C)C3)C=C2 | C41H41FN2O5
